US07741479B2
The previously prepared 1-(4-amino-2-tert-butyl-1H-pyrrole-5-carbonyl)-1,4-diazepan-5-one (8 mg, 0.03 mmol) and 2,3 dichlorophenyl isocyanate (5 mg, 0.03 mmol) were dissolved in THF (2 mL) and heated at 70° C. for 2 hours. The reaction mixture was cooled down to room temperature, diluted with ethyl acetate, washed with saturated aqueous sodium bicarbonate, dried and the solvent eliminated under vacuum. The crude product was purified by preparative thin layer chromatography using a mixture of dichloromethane:methanol 9:1 as elution solvent to afford 7.0 mg of 1-(5-tert-butyl-2-(5-oxo-1,4-diazepane-1-carbonyl)-1H-pyrrol-3-yl)-3-(2,3-dichloro-phenyl)urea as a white solid. 1H NMR (400 MHz, acetone-d6): δ (ppm) 9.60 (bs, 1H); 8.60 (d, 2H); 8.26 (d, 1H); 7.30 (t, 1H); 7.20 (d, 1H); 6.84 (t, 1H); 6.59 (d, 1H); 3.76 (m, 2H); 3.70 (m, 2H); 3.40 (m, 2H); 2.61 (m, 2H); 1.37 (s, 9H).

reactant | 1-(4-amino-2-tert-butyl-1H-pyrrole-5-carbonyl)-1,4-diazepan-5-one | 0.03 mmol, 8 mg | NC=1C=C(NC1C(=O)N1CCNC(CC1)=O)C(C)(C)C | C14H22N4O2
reactant | 2,3 dichlorophenyl isocyanate | 0.03 mmol, 5 mg | ClC1=C(C=CC=C1Cl)N=C=O | C7H3Cl2NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(5-tert-butyl-2-(5-oxo-1,4-diazepane-1-carbonyl)-1H-pyrrol-3-yl)-3-(2,3-dichloro-phenyl)urea | 7.0 mg | C(C)(C)(C)C1=CC(=C(N1)C(=O)N1CCNC(CC1)=O)NC(=O)NC1=C(C(=CC=C1)Cl)Cl | C21H25Cl2N5O3
